Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R BG bleed with IVE 
 
Major Surgical or Invasive Procedure:
__ EVD 
___ Bronchoscopy 
___ Central Line 
 
History of Present Illness:
HPI: 
Mr. ___ is a ___ M w PMHx of untreated HTN and
significant EtOH use who presents to ___ from ___ for
treatment of IPH w IVH.
Family reports that Mr. ___ was ___ his usual state of health
until yesterday (___) afternoon. At that time he complained of a
severe headache and actually vomited. He was also acting 
confused
- he entered his daughter's bedroom thinking it was his own, he
later put on cologne and his coat before lying down to take a
nap.
He awoke on the morning of presentation with a persistent
headache and vomited again. He continued to appear confused and
sleep to his family, but kept saying "I'm find." They noted that
his balance appeared off, and he needed help getting into his
car. He was taken to ___ were ___ showed R BG
hemorrhage with significant intraventricular extension. His 
blood
pressure was elevated to sBP > 200 there, so nicardipine drip 
was
started. He was transferred to ___ ED for further evaluation
and treatment.
___ the ED, he is unable to give this writer a substantial amount
of history. He did not recall that his headache started the day
prior. He does not recall being med-flighted over to our
hospital.
Limited ROS is obtained from family. Notable for lack of any
recent significant illness or known head trauma.

 
Past Medical History:
- diagnosed with HTN, not taking meds
- cholecystectomy, ___ years ago
- pancreatitis ___ years ago
 
Social History:
___
Family History:
Father with MI at age ___.
 
Physical Exam:
Admission: 
PHYSICAL EXAMINATION:
VS T:99.2 HR:79 BP:138/86 RR:14 SaO2:97RA
GEN - sleepy, overweight, picking at lines and bed sheets
HEENT - NC/AT, MMM, B/L proptosis
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - obese, soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION:
MS - Awake but requires frequent verbal stimulation to remain
interactive. Oriented to self, ___" (believes he is
___ ___, gives correct date but year ___. Speech is sparse
with increased response time latency. Unable to name hammock or
key. Able to read and repeat without difficulty. Able to
comprehend 2 step and crossed body commands. When shows stroke
card scene states: "The kid is playing with the forehead." 
Unable
to convince him that this is not what the picture shows. States
that there are 4 people ___ the picture, pointing to the sink as
one person.

CN - [II] PERRL 3->2 brisk. +BTT. [III, IV, VI] EOMI, no
nystagmus. [V] V1-V3 without deficits to light touch 
bilaterally.
[VII] Subtle L NLFF with decreased activation. [VIII] Hearing
intact to voice. [IX, X] Palate elevation symmetric. No
dysarthria. [XI] SCM/Trapezius strength ___ bilaterally. [XII]
Tongue midline with full ROM.

MOTOR - Normal bulk and tone. +Asterixis. LUE with some cupping
but no clear pronation or drift. 
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1] 
L  5      5     5     5     4+   4+   5      5     5    5   
R  5      5     5     5     5    5    5      5     5    5   

SENSORY - Reports decreased sensation to PP over LUE and LLE.

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 1      1      1      1        0
R 1      1      1      1        0
Plantar response flexor bilaterally.

COORD - No dysmetria with finger to nose testing. 

GAIT - Deferred.
=
=
=
=
=
=
=
=
=
=
================================================================
DISCHARGE PHYSICAL EXAMINATION: 
Vitals: Tm/c: 98.7/98.3 BP: 130-158/70-79 HR: ___ RR: ___
SaO2: 91-95% on 40% trach collar

Exam: 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM. Trach collar ___
place
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 
Skin: diffuse truncal predominant petechial rash. 

Neuro:
MS- Awake, Alert, Spontaneous EO. Regards examiner and tracks
well. Converses appropriately by mouthing words, answering
questions appropriately w/ facial expressions and nod of head.
follows commands. 
CN- PERRL 4->3, briskly reactive. L eye hypertropia. slight L
NLFF
Sensory/Motor- Gives at least 4+/5 strength ___ all major muscle 
groups ___ BUE. Moves L less briskly than R.  Wiggle toes ___ 
R>LLE intermittently to command, strength 1 at bilateral 
quadriceps. 
- Coordination: no ataxia

 
Pertinent Results:
Admission: 

___ 01:45PM BLOOD WBC-8.7 RBC-4.19* Hgb-14.0 Hct-40.4 
MCV-96 MCH-33.4* MCHC-34.7 RDW-13.2 RDWSD-46.8* Plt Ct-82*
___ 01:45PM BLOOD Neuts-73.0* Lymphs-17.2* Monos-8.7 
Eos-0.1* Baso-0.7 Im ___ AbsNeut-6.31* AbsLymp-1.49 
AbsMono-0.75 AbsEos-0.01* AbsBaso-0.06
___ 01:45PM BLOOD ___ PTT-29.9 ___
___ 01:45PM BLOOD Glucose-227* UreaN-12 Creat-0.7 Na-138 
K-3.2* Cl-99 HCO3-24 AnGap-18
___ 01:45PM BLOOD ALT-44* AST-68* AlkPhos-109 TotBili-1.8*
___ 01:45PM BLOOD Lipase-54
___ 01:45PM BLOOD Albumin-4.0 Calcium-8.7 Phos-2.5* Mg-1.6
___ 02:30PM BLOOD Ammonia-<10
___ 12:09PM BLOOD TSH-1.0
___ 01:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:57PM BLOOD Lactate-1.9
___ 05:38AM URINE Color-Red Appear-Hazy Sp ___
___ 05:38AM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 02:13PM URINE RBC-12* WBC-11* Bacteri-FEW Yeast-NONE 
Epi-0 TransE-<1

Pertinent Labs: 

___ 01:45PM BLOOD H/O Smr-DONE
___ 12:50AM BLOOD ___ Thrombn-13.1
___ 12:09PM BLOOD %HbA1c-7.1* eAG-157*
___ 12:09PM BLOOD Triglyc-119 HDL-34 CHOL/HD-3.1 LDLcalc-47
___:09PM BLOOD TSH-1.0
___ 07:44AM URINE Hours-RANDOM UreaN-1028 Creat-344 Na-<20
___ 10:38AM URINE Hours-RANDOM Creat-239 Na-<20 K-60 
Phos-114.9 Mg-1.4
___ 10:38AM URINE Osmolal-630

Microbio
URINE CULTURE (Final ___:    NO GROWTH. 
___ 5:33 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
URINE CULTURE (Final ___:    NO GROWTH. 
CLOSTRIDIUM DIFFICILE (___): Positive for toxigenic C 
difficile by the Cepheid nucleic
         amplification assay.     

*****PENDING**** 
Blood Cultures
. 
___ 1:12 pm BRONCHOALVEOLAR LAVAGE

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   TINY PLEOMORPHIC GRAM 
NEGATIVE
      COCCOBACILLI. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 

   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING. 
. 
CSF
___ 05:58AM BLOOD WBC-9.7 RBC-2.74* Hgb-9.0* Hct-28.7* 
MCV-105* MCH-32.8* MCHC-31.4* RDW-13.5 RDWSD-50.8* Plt ___
___ 05:58AM BLOOD ___ PTT-37.7* ___
___ 12:50AM BLOOD ___ Thrombn-13.1
___ 07:53AM BLOOD ___
___ 12:00PM BLOOD Ret Aut-1.9 Abs Ret-0.05

___ 05:58AM BLOOD Glucose-111* UreaN-24* Creat-0.6 Na-146* 
K-3.9 Cl-108 HCO3-27 AnGap-15
___ 01:51AM BLOOD ALT-31 AST-46* LD(LDH)-281* CK(CPK)-120 
AlkPhos-238* TotBili-0.3
___ 01:51AM BLOOD Lipase-86*
___ 12:09PM BLOOD %HbA1c-7.1* eAG-157*
___ 06:46AM BLOOD D-Dimer-2887*
___ 02:07AM BLOOD Hapto-314*
___ 01:51AM BLOOD Hapto-300*
___ 12:09PM BLOOD Triglyc-119 HDL-34 CHOL/HD-3.1 LDLcalc-47
___ 02:30PM BLOOD Ammonia-<10
___ 04:09PM BLOOD TSH-1.1
___ 02:30AM BLOOD HBsAg-Negative HBsAb-Negative
___ 12:00PM BLOOD HIV Ab-Negative
___ 04:55AM BLOOD HEPARIN DEPENDENT ANTIBODIES- wnl
___ 02:22PM URINE Blood-LG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 10:04AM CEREBROSPINAL FLUID (CSF) WBC-4200 ___ 
Polys-87 ___ ___ 10:04AM CEREBROSPINAL FLUID (CSF) TotProt-141* 
Glucose-69

___ C. diff PCR: positive
 
Brief Hospital Course:
ICU Course: 
Mr. ___ was admitted to the Neuro ICU on ___, arrived 
intubated from the ED. EVD was placed by ___ immediately on 
arrival to the ICU. EVD was subsequently noted to be ___ the 
parenchyma, and was retracted x2. After placement was confirmed 
post-retraction, intrathecal tPA was started at 1mg q8h and 
continued for total of 9 doses ___. He initially had had low 
urine output, for which a FeNA was calculated 0.0% and Urine NA 
<20, concerning for hypovolemia, so he was given multiple fluid 
boluses. 

On ___, he had tremulousness concerning for EtOH withdrawal, 
and was started on phenobarb taper protocol. 

Over the weekend of ___, He became delirious on precedex, 
writing "nurse trying to kill him, allergic to insulin". He then 
became tachpneic with increase work of breathing with copious 
yellow secretions. He was given nebs, IVF were stopped (net +7L) 
and ventilatory settings were increased. He was empirically 
started on vancomycin and cefepime for VAP. He had a Bronch 
(___), whose culture eventually grew commensal flora. He 
developed ARDS, and required PEEP as high as 15. He was managed 
per ARDSnet protocol. 
Renal was consulted for low urine output, hematuria and gross 
urine sediment, for which they recommended: Renal US (notable 
for simple renal cysts), replaced foley. They felt renal 
dysfunction was likely multifactorial ___ to renal 
vasoconstriction ___ contrast and ACEI as well as sepsis as well 
as volume overload state. he was volume overloaded, but 
intravascularly deplete given NICOM and urine NA, so recommended 
Lasix 80 mg. Furthermore, his sediment had many RBC (not 
flomerular) as well as a few muddy brown casts. On ___, given 
concern for sepsis and adequate urine production and NICOM 
showing a 9.7% change ___ cardiac index with passive leg raise, 
diuresis was held. However, his ventilatory requirements 
increased on ___ ___ setting of fluid bolus, for which he was 
given Lasix 80 mg with ~1200 UOP. Urology was also consulted for 
hematuria workup, for which they recommended outpatient workup. 
Heme was consulted for low platelets and prolonged ___, which was 
likely due to etOH abuse, as patient had normal smear. They 
recommended fibrinogen to ensure there is no comsumptive process 
and abd US of liver and spleen which showed hepatic steatosis, 
though couldn't rule out cirrhosis, small volume ascites and 
spleen at uln for size. 

EVD stopped draining ___ pm, and was subsequently removed 
___ am after multiple attempts to troubleshoot the EVD failed. 
It was presumed clotted. Follow-up imaging showed no developing 
hydrocephalus and EVD was not replaced.

His course was complicated by pneumonia, treated with 7 day 
course of vancomycin and cefepime, ARDS, treated with mechanical 
ventilation per ARDSnet protocol, and c. difficile colitis, 
treated with IV metronidazole. Given rising leukocytosis and 
intermittent fevers despite this treatment, PO vancomycin was 
added to IV metronidazole. These were continued for 14 days 
after cessation of broad-spectruma antibiotics. Tracheostomy and 
PEG placement were performed on ___, without event. Patient 
was seen to have sudden ___ weakness on ___ for which MRI C and 
T spine were performed with no findings. He underwent subsequent 
EMG/NCS which showed severe axonal polyneuropathy suggestive of 
critical illness myoneuropathy. Due to concern for respiratory 
involvement, he was monitored with NIF/VCs. 

Over weekend of ___, patient was seen to spike fevers with 
cultures collected. CT Abdomen/Pelvis was performed which showed 
hepatobiliary findings consistent with chronic pancreatitis. 
LENIs and f/u CT Chest were negative for pulmonary embolism or 
DVT. On ___, patient had worsening respiratory status and new 
onset maculopapular rash which spread over the following days. 
Respiratory status improved with increased PEEP and standing 
diuretic regimen. Allergy and Dermatology evaluated patient and 
were confident due to delayed drug allergy, possibly ___ relation 
to previous administration of Cefepime. Pantoprazole was stopped 
due to possible inciting agent. No significant eosinophilia seen 
___ urine or on CBC. Sarna lotion was started for symptomatic 
relief. 

On ___, patient's platelets dropped from 160 to 75 with SQH 
being stopped due to concern for HIT. Patient was also seen to 
have swelling LUE with f/u Doppler US negative. On ___, his 
platelets dropped further to 15 and pt received platelet 
transfusion x 2. He was evaluated by ID and Heme and Abx 
including Vancomycin, Cipro, and Flagyl as well as Lasix were 
discontinued to concern for drug-induced thrombocytopenia. 
Following this time, patient's platelet level improved as did 
his drug rash. He was restarted on Lasix on ___ without 
complications with goal of improved respiratory status. 
Following this time, pt began to gain strength gradually ___ 
lower extremities. He was slowly weaned off vent with increasing 
tolerance of trach collar. 

HTN was treated with nicardipine gtt ___ the ICU, and eventually 
transferred to PO therapies with Labetalol and Amlodipine. 
Isordil was started but shortly discontinued on ___ due to 
concern for drug reaction. 

DM was treated with insulin gtt ___ the ICU, and was eventually 
transferred to SQ therapies with Sliding Scale per ___ 
recommendations.

Mr. ___ has had recurrent urinary retention, and has failed 
multiple voiding trials. 

24 hour events prior to discharge: 
- No overnight events. 

===================================
Transitional Issues: 
[ ] Finish course of PO vancomycin on ___. 
[ ] Recommend consideration of speaking valve trials. 
[ ] consider downsizing trach with eye to eventual removal
[ ] continue ___. 
[ ] continue voiding trials, curr foley-dependent. 

========================================
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Smoking cessation counseling given? () Yes - (x) No [reason 
() non-smoker - (x) unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezes or SOB  
3.  amLODIPine 10 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Glucose Gel 15 g PO PRN hypoglycemia protocol  
6.  NPH 22 Units Breakfast
NPH 24 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
7.  Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheezes or SOB  
8.  Labetalol 500 mg PO Q6H  
9.  Mupirocin Ointment 2% 1 Appl TP BID Skin lesion  
10.  QUEtiapine Fumarate 25 mg PO QHS:PRN agitation  
11.  Sarna Lotion 1 Appl TP BID  
12.  Thiamine 200 mg PO DAILY  
13.  Vancomycin Oral Liquid ___ mg PO Q6H Duration: 4 Doses 
Last day of course is ___  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute hemorrhagic stroke due to hypertension with 
intraventricular extension. 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of weakness resulting from 
an ACUTE HEMORRHAGIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain breaks open and 
bleeds. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result ___ a variety 
of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
___ order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High blood pressure

We are changing your medications Please take your medications as 
prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). ___ particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___